US06232310B1
a) N-(2-Cyanomethylsulfanyl-5-trifluoromethylphenyl)-butyramide
(2-Amino-4-trifluoromethylphenylsulfanyl)acetonitrile (1.33 g) dissolved in dichloromethane (5 ml) was stirred on an ice bath at 0° C. Diisopropylethylamine (1 ml) and butyric acid chloride (0.9 ml) was added, and the resulting solution was allowed to reach room temperature. After 22 h more butyric acid chloride (0.9 ml) and DMAP (0.70 g) were added at 0° C. and stirring was continued at 40° C. for 24 h. The cold mixture was diluted with dichloromethane (20 ml), extracted with saturated aqueous sodium bicarbonate (10 ml), washed with water (2×50 ml), dried (Na2SO4) and concentrated in vacuo. The residue was purified by flash chromatography using ethyl acetate/heptane 1:1 as eluent. The title compound was obtained as a sirup. Yield 1.72 g (100%). The compound could be crystallised from ethyl acetate/heptane, mp 88.5-89.5° C.; El SP/MS: 302 (M+). 1H-NMR(CDCl3) δ (ppm): 8.85 (br, 1H), 8.38 (br, 1H), 7.28 (d, 1H), 7.38 (dd, 1H), 3.50 (s, 2H), 2.46 (t, 2H), 1.82 (sextet), 1.03 (t, 3H).

reactant | (2-Amino-4-trifluoromethylphenylsulfanyl)acetonitrile | 1.33 g | NC1=C(C=CC(=C1)C(F)(F)F)SCC#N | C9H7F3N2S
reactant | Diisopropylethylamine | 1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | butyric acid chloride | 0.9 ml | C(CCC)(=O)Cl | C4H7ClO
reactant | butyric acid chloride | 0.9 ml | C(CCC)(=O)Cl | C4H7ClO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | DMAP | 0.70 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-(2-Cyanomethylsulfanyl-5-trifluoromethylphenyl)-butyramide | C(#N)CSC1=C(C=C(C=C1)C(F)(F)F)NC(CCC)=O | C13H13F3N2OS
